US08304446B2
[4-{[2-(Dimethylamino)ethyl]oxy}-3-(methyloxy)phenyl]methanol
Methyl 4-{[2-(dimethylamino)-2-oxoethyl]oxy}-3-(methyloxy)benzoate (for a preparation see Intermediate 22) (1.4 g, 5.2 mmol) was dissolved in THF (50 ml) and cooled in an ice-bath under nitrogen. The mixture was then treated cautiously with 1M ether solution of lithium aluminium hydride (5.5 mL) and the mixture was stirred at 5° C. allowing to warm to RT overnight. The reaction mixture was quenched by cautious addition of aq. saturated NaHCO3 solution (1 mL), followed by MgSO4 (2 g) and stirring for 30 min. The solids were removed by filtration, washed with ethyl acetate, and the filtrate was evaporated to give the title compound (1.18 g, 100%) as a yellow oil: LCMS (System A) RT=0.34 min, ES+ve m/z 226 (M+H)+.

reactant | Methyl 4-{[2-(dimethylamino)-2-oxoethyl]oxy}-3-(methyloxy)benzoate | CN(C(COC1=C(C=C(C(=O)OC)C=C1)OC)=O)C | C13H17NO5
reactant | ether | 1M | CCOCC | C4H10O
reactant | lithium aluminium hydride | 5.5 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | [4-{[2-(Dimethylamino)ethyl]oxy}-3-(methyloxy)phenyl]methanol | 1.18 g, 100% | CN(CCOC1=C(C=C(C=C1)CO)OC)C | C12H19NO3
